US05559111
c) 3-Benzyloxycarbonylamino-2(R,S)-methylpropionic acid methyl ester
22.6 g of 3-benzyloxycarbonylamino-2(R,S)-methylpropionic acid are left to stand for 24 hours in 230 ml of methanol with a few drops of concentrated sulfuric acid. The reaction mixture is concentrated by evaporation and the residue is purified by FC (220 g of silica gel, dichloromethane). The title compound is obtained: Rf (dichloromethane/methanol=95:5)=0.60.

reactant | 3-benzyloxycarbonylamino-2(R,S)-methylpropionic acid | 22.6 g | C(C1=CC=CC=C1)OC(=O)NCC(C(=O)O)C | C12H15NO4
reactant | methanol | 230 ml | CO | CH4O
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | 3-Benzyloxycarbonylamino-2(R,S)-methylpropionic acid methyl ester | COC(C(CNC(=O)OCC1=CC=CC=C1)C)=O | C13H17NO4
